US08491869B2
A solution of 1-(4-nitrophenyl)ethanone (2.2 g, 13 mmol) and N,N-dimethylformamide dimethyl acetal (25 ml) was heated to 120° C. in a sealed tube overnight. The volatiles were removed. The residue was dissolved in DCM and washed twice with H2O. The DCM layer was dried with MgSO4. The crude product was purified by flash chromatography (silica gel, 100% EtOAc) to isolate (E)-3-(dimethylamino)-1-(4-nitrophenyl)prop-2-en-1-one (2.2 g,) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 2.99 (s, 3H), 3.23 (s, 3H), 5.70 (d, J=12.4 Hz, 1H), 7.94 (d, J=12.4 Hz, 1H), 8.03 (m, 2H), 8.26 (m, 2H). MS (ESI): 221 (M+H+)

reactant | 1-(4-nitrophenyl)ethanone | 13 mmol, 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | N,N-dimethylformamide dimethyl acetal | 25 ml | COC(N(C)C)OC | C5H13NO2
product | (E)-3-(dimethylamino)-1-(4-nitrophenyl)prop-2-en-1-one | 2.2 g | CN(/C=C/C(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C11H12N2O3
